US05192759
Preparation of 1-(1,2,3,4-tetrahydro-1-naphtyl)-pyrrolidin-2-one (ST 748)
CDI (6.61 g. 40.75 mmoles) and, after 1 hour, 1,2,3,4-tetrahydro-1-naphtylamine (5 g, 33.96 mmoles) were added to 4-chlorobutyric acid (4.16 g, 33.96 mmoles) in CH2Cl2 (200 mL) under stirring. The resulting solution was kept at room temperature for 40 hours, then washed with 1N HCl, NaHCO3 (saturated solution), H2O, NaCl (saturated solution) and dried over anhydrous Na2SO4. The solvent was evaporated and the residue taken up with CHCl3. Upon addition of Et2O under stirring a precipitate was obtained consisting of 4.5 g (17.87 mmoles) of N-(4-chloro-butyroyl)-1,2,3,4,-tetrahydro-1-naphtylamine (silica gel TLC; Eluant EtOAc-Hexane (1:1), RF=0.7) which was dissolved in CH3CN (100 mL). To the mixture, 80% NaH in mineral oil (804 mg, 26.8 mmoles) was added in two portions, the second portion after some hours following the first one. The mixture was then kept at room temperature under stirring for 2 days. The mixture was then filtered, the filtrate evaporated and the residue chromatographed on silica gel using EtOAc-Hexane (1:1) as eluant. 1.93 g of the title compound were obtained. Last step yield=50%, overall yield 26%.

reactant | CDI | 40.75 mmoles, 6.61 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1,2,3,4-tetrahydro-1-naphtylamine | 33.96 mmoles, 5 g | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 4-chlorobutyric acid | 33.96 mmoles, 4.16 g | ClCCCC(=O)O | C4H7ClO2
reactant | N-(4-chloro-butyroyl)-1,2,3,4,-tetrahydro-1-naphtylamine | 17.87 mmoles, 4.5 g | ClCCCC(=O)NC1CCCC2=CC=CC=C12 | C14H18ClNO
reactant | NaH | [H-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 1-(1,2,3,4-tetrahydro-1-naphtyl)-pyrrolidin-2-one | 1.93 g, yield=50% | C1(CCCC2=CC=CC=C12)N1C(CCC1)=O | C14H17NO
